US05286750
m-Bromomethylenephenylglyoxylic acid methyl ester O-methyl oxime (Table 1, Number 38, abbreviation 1/38)
15 g (72.4 mmol) of m-methylphenylglyoxylic acid methyl ester O-methyl oxime, 13.5 g (75.8 mmol) of N-bromosuccinimide and 0.1 g (0.6 mmol) of azobisisobutyrodinitrile in 150 ml of CH2Cl2 are exposed for 4 hours to a 300 watt UV lamp, the reaction mixture being refluxed. Thereafter, the organic phase is extracted with water, dried over MgSO4 and evaporated down.

reactant | m-methylphenylglyoxylic acid methyl ester O-methyl oxime | 72.4 mmol, 15 g | CON=C(C(=O)OC)C1=CC(=CC=C1)C | C11H13NO3
reactant | N-bromosuccinimide | 75.8 mmol, 13.5 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | CH2Cl2 | 150 ml | C(Cl)Cl | CH2Cl2
product | m-Bromomethylenephenylglyoxylic acid methyl ester O-methyl oxime | CON=C(C(=O)OC)C=1CC(C=CC1)=CBr | C11H12BrNO3
